US05041673
(±)-(3aR,9aR)-3a,4,9,9a-Tetrahydro-2-phenyl-naphth[2,3-d]oxazol-9-ol
To a solution of (±)-(3aR,9R, 9aR)-9-chloro-3a, 4,9,9a-tetrahydro-2-phenyl-naphth[2,3-d]oxazole (360 mg) in 2-methoxyethanol (10 ml) was added a solution of lithium hydroxyde monohydrate (67 mg) in water (2 ml). The mixture was warmed at 90° C. for 1/2 hour and the title compound was precipitated by addition of water. Filtration, washing with water and drying in vacuo gave the title compound as a yellow solid (205 mg).

reactant | (±)-(3aR,9R, 9aR)-9-chloro-3a, 4,9,9a-tetrahydro-2-phenyl-naphth[2,3-d]oxazole | 360 mg | Cl[C@@H]1C=2C=CC=CC2C[C@H]2N=C(O[C@H]21)C2=CC=CC=C2 | C17H14ClNO
reactant | lithium | 67 mg | [Li] | Li
reactant | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
solvent | water | 2 ml | O | H2O
product | (±)-(3aR,9aR)-3a,4,9,9a-Tetrahydro-2-phenyl-naphth[2,3-d]oxazol-9-ol | 205 mg | C1(=CC=CC=C1)C=1O[C@@H]2[C@H](N1)CC=1C=CC=CC1C2O | C17H15NO2
